US08309550B2
N-(3-Nitrophenyl)-4-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-amine (Compound 17)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one with 1-(3-nitrophenyl)guanidine hydrochloride. 1H-NMR (DMSO-d6) δ: 0.90 (t, 3H, J=7.2 Hz, CH3), 1.93 (t, 2H, J=7.6 Hz, CH2), 4.33 (t, 2H, J=6.8 Hz, CH2), 7.26 (q, 1H, J=4.4 Hz, Ar—H), 7.40 (d, 1H, J=5.6 Hz, Pyrimidin-H), 7.61 (t, 1H, J=8.4 Hz, Ph-H), 7.81 (m, 1H, Ph-H), 8.12 (m, 1H, Ph-H), 8.37 (m, 1H, Ar—H), 8.48 (d, 1H, J=5.6 Hz, Pyrimidin-H), 8.64 (s, 1H, Ar—H), 8.92 (d, 1H, J=8.0 Hz, Ar—H), 9.00 (s, 1H, NH). MS (ESI+) m/z 375.1519 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=NC=CC=C21)CCC)C | C15H19N3O
reactant | 1-(3-nitrophenyl)guanidine hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
product | N-(3-Nitrophenyl)-4-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-amine | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CN(C2=NC=CC=C21)CCC | C20H18N6O2
